US04165377
A solution of benzoic anhydride (0.73 g.) in pyridine (5 ml.) is added to a stirred suspension of 2-guanidino-4-[(2-cyano-3-methylguanidino)butyl]thiazole (1.0 g.) in pyridine (5 ml.). The mixture is stirred for 24 hours, diluted with water (50 ml.) and the precipitate collected to give 2-(2-benzoylguanidino)-4-[(2-cyano-3-methylguanidino)butyl]thiazole.

reactant | benzoic anhydride | 0.73 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | 2-guanidino-4-[(2-cyano-3-methylguanidino)butyl]thiazole | 1.0 g | N(C(=N)N)C=1SC=C(N1)CCCCNC(=NC#N)NC | C11H18N8S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | 2-(2-benzoylguanidino)-4-[(2-cyano-3-methylguanidino)butyl]thiazole | C(C1=CC=CC=C1)(=O)N=C(NC=1SC=C(N1)CCCCNC(=NC#N)NC)N | C18H22N8OS
